US08791303B2
Preparation of 4-Cyclopropylmethyl-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione
To 5% w/w Pd/C (5 mg) was added a solution of 4-[1-cyclopropyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione (28 mg, 0.09 mmol) in MeOH (10 ml). The reaction was stirred under an atmosphere of H2 (1.5 bar) for 1.5 hours, filtered through a pad of celite and washed through with MeOH (20 ml). The solvent was removed under reduced pressure to give the crude product (20 mg) which was purified by mass-directed HPLC to give the desired product (5 mg).

reactant | 4-[1-cyclopropyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 0.09 mmol, 28 mg | C1(CC1)C=C1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C18H20O2
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 4-Cyclopropylmethyl-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 5 mg | C1(CC1)CC1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C18H22O2
